US04421549
N-trifluoroacetyl-N-(hydroxyphosphinylmethyl)-glycine, ethyl ester (2 g, 0.0072 mol), was dissolved in benzene and added to phosphorous trichloride dropwise with stirring. The liquid was filtered and the supernatant liquid evaporated under vacuum to yield N-trifluoroacetyl-N-carboethoxymethylaminomethylphosphine dichloride. The dichloride was dissolved in tetrahydrofuran and a solution of 2.91 g (0.0288 mol) of di-n-propylamine in tetrahydrofuran was added dropwise with stirring. After stirring for two hours, 134 mg (0.0072 mol) of sulfur was added and the reaction stirred overnight. The reaction was then filtered and concentrated to dryness. The residue was dissolved in methanol and centrifuged to remove the unreacted sulfur; the supernatent liquid was decanted and concentrated to dryness. The residue was dissolved in ether and washed with 5% aqueous sodium bicarbonate and hydrochloric acid, then dried over magnesium sulfate, filtered and concentrated to dryness. The residue was chromatographed on silica gel with hexane, then dichloromethane, then ether to yield N-trifluoroacetyl-N-[bis(di-n-propylamino)phosphinothioylmethyl]-glycine, ethyl ester, as a brown oil, ND25 =1.5724, having the following analysis:

reactant | N-trifluoroacetyl-N-(hydroxyphosphinylmethyl)-glycine, ethyl ester | 0.0072 mol, 2 g | FC(C(=O)N(CC(=O)OCC)CP(=O)O)(F)F | C7H11F3NO5P
reactant | phosphorous trichloride | P(Cl)(Cl)Cl | Cl3P
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-trifluoroacetyl-N-carboethoxymethylaminomethylphosphine dichloride | [Cl-].[Cl-].FC(C(=O)N(CC(=O)OCC)CP)(F)F | InChI=1S/C7H11F3NO3P.2ClH/c1-2-14-5(12)3-11(4-15)6(13)7(8,9)10;;/h2-4,15H2,1H3;2*1H/p-2
